US07728129B2
Step B. 1-Cyclopropylpiperazine dihydrochloride
A solution of tert-butyl 4-cyclopropylpiperazine-1-carboxylate (92 g) in 1,4-dioxin (200 mL) was treated with HCl (4 M in 1,4-dioxin, 500 mL) over 10 min while maintaining the temperature below 40° C. After the addition was complete, the mixture was heated at 45° C. for 9 h and then was cooled to room temperature. The thick suspension was diluted with hexanes (400 mL) and was cooled to 10° C. The resulting solid was collected by filtration, washed with hexanes, and dried to yield the title compound as a white solid.

reactant | tert-butyl 4-cyclopropylpiperazine-1-carboxylate | 92 g | C1(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H22N2O2
reactant | HCl | 4 M, 500 mL | Cl | ClH
solvent | 1,4-dioxin | 200 mL | O1C=COC=C1 | C4H4O2
product | 1-Cyclopropylpiperazine dihydrochloride | Cl.Cl.C1(CC1)N1CCNCC1 | InChI=1S/C7H14N2.2ClH/c1-2-7(1)9-5-3-8-4-6-9;;/h7-8H,1-6H2;2*1H
